Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Difficulty speaking 
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms. ___ is a ___ year old woman with no past medical history
who presents to the ED after an episode of difficulty speaking.
History is obtained primarily from her as well as her husband.

She was in her usual state of health today and going about her
business as usual, when at around 12 noon her husband shouted to
her from the next room. When she did not respond he went in to
check on her. Although she was trying to speak, she was unable 
to
produce more than a sound or two (eg. "tuh, tuh..."). He tried
asking her various questions but she was unable to answer. She
seemed to know what she wanted to say, but was unable to get it
out. Ms ___ states that she very clearly remembers this and
could think of what she wanted to say, but was unable to produce
the words. She understood everything that was being said to her.
There was no facial droop, weakness, sensory change, or 
headache.
She was able to walk around and carry objects in her hands 
during
this time. After about 5 minutes of this, she seemed to be
improving, in that she was able to say things like ___ and
"okay". Thinking the episode was over, she and her husband
watched TV on the couch until about 1:30pm. During this time she
did not say anything more than one or two words.

At around 1:30pm her daughter arrived. When she did so, she 
asked
Ms ___ several questions, and again she seemed to have
difficulty producing anything more than a single sound. As 
above,
she knew what she wanted to say, and could understand what 
people
were saying to her. Thinking that she needed to rest, she went 
to
take a nap. When she awoke at about 3:30, she found that she was
again able to speak normally. However, as they were concerned 
she
could have had a stroke, they presented to ___. There,
initial BP was 143/73. Due to concern for stroke, she was
transferred to ___.

She has never had an prior similar episodes. She denies any 
pain,
difficulty speaking, weakness, or sensory change currently. 

 
Past Medical History:
Osteoarthritis
 
Social History:
___
Family History:
Sister died of a heart attack at age ___
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: T: 97.8 BP: 161/79 HR: 79 RR: 16 SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes, and the third with category clue. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slight flattening of the right nasolabial fold with good
activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Tone is slightly increased in the legs. No pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Mildly decreased sensation to vibration, 
proprioception
in both feet. Otherwise normal. No extinction to DSS. Sways with
Romberg but does not fall. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE EXAM:
===============
VS: Temp: 98.5 (Tm 99.1), BP: 136/71 (122-158/64-71), HR: 66
(54-73), RR: 18 (___), O2 sat: 97% (96-99), O2 delivery: Ra 
Exam 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
No dysarthria. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: Slight flattening of the right nasolabial fold with good
activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Tone is slightly increased in the legs. No pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Mildly decreased sensation to vibration, 
proprioception
in both feet. Otherwise normal. No extinction to DSS. Sways with
Romberg but does not fall. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:04AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:04AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:31AM   GLUCOSE-88 UREA N-11 CREAT-0.8 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-22 ANION GAP-11
___ 07:31AM   ALT(SGPT)-12 AST(SGOT)-20 LD(LDH)-169 
CK(CPK)-24* ALK PHOS-76 TOT BILI-0.3
___ 07:31AM   GGT-84*
___ 07:31AM   CK-MB-<1 cTropnT-<0.01
___ 07:31AM   TOT PROT-6.0* ALBUMIN-3.4* GLOBULIN-2.6 
CHOLEST-166
___ 07:31AM   VIT B12-229* FOLATE-5
___ 07:31AM   %HbA1c-5.3 eAG-105
___ 07:31AM   TRIGLYCER-77 HDL CHOL-59 CHOL/HDL-2.8 
LDL(CALC)-92
___ 07:31AM   TSH-5.7*
___ 07:31AM   CRP-1.6
___ 07:31AM   WBC-4.5 RBC-2.75* HGB-9.4* HCT-28.2* MCV-103* 
MCH-34.2* MCHC-33.3 RDW-13.2 RDWSD-48.3*
___ 07:31AM   NEUTS-43.5 ___ MONOS-9.8 EOS-2.0 
BASOS-0.7 IM ___ AbsNeut-1.95 AbsLymp-1.94 AbsMono-0.44 
AbsEos-0.09 AbsBaso-0.03
___ 07:31AM   ___ PTT-34.7 ___
___ 07:31AM   PLT COUNT-131*
___ 01:40AM   cTropnT-<0.01
___ 01:40AM   ___ PTT-33.2 ___
___ 12:35AM   GLUCOSE-95 UREA N-10 CREAT-0.8 SODIUM-140 
POTASSIUM-4.5 CHLORIDE-109* TOTAL CO2-19* ANION GAP-12
___ 12:35AM   estGFR-Using this
___ 12:35AM   ALT(SGPT)-13 AST(SGOT)-25 ALK PHOS-74 TOT 
BILI-0.3
___ 12:35AM   LIPASE-35
___ 12:35AM   cTropnT-<0.01
___ 12:35AM   ALBUMIN-3.4* CALCIUM-8.2* PHOSPHATE-3.4 
MAGNESIUM-1.9
___ 12:35AM   %HbA1c-5.6 eAG-114
___ 12:35AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:35AM   WBC-5.1 RBC-2.74* HGB-9.3* HCT-28.3* MCV-103* 
MCH-33.9* MCHC-32.9 RDW-13.1 RDWSD-48.3*
___ 12:35AM   NEUTS-48.2 ___ MONOS-7.5 EOS-1.6 
BASOS-0.6 IM ___ AbsNeut-2.44 AbsLymp-2.11 AbsMono-0.38 
AbsEos-0.08 AbsBaso-0.03
___ 12:35AM   PLT COUNT-141*
___ 11:30PM URINE  HOURS-RANDOM
___ 11:30PM URINE  HOURS-RANDOM
___ 11:30PM URINE  HOURS-RANDOM
___ 11:30PM URINE  GR HOLD-HOLD
___ 11:30PM URINE  UHOLD-HOLD
___ 11:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG

DISCHARGE LABS:
===============
___ 07:31AM BLOOD WBC-4.5 RBC-2.75* Hgb-9.4* Hct-28.2* 
MCV-103* MCH-34.2* MCHC-33.3 RDW-13.2 RDWSD-48.3* Plt ___
___ 05:20AM BLOOD ___ PTT-35.5 ___
___ 05:20AM BLOOD Glucose-101* UreaN-11 Creat-0.8 Na-141 
K-4.5 Cl-106 HCO3-25 AnGap-10
___ 07:31AM BLOOD ALT-12 AST-20 LD(LDH)-169 CK(CPK)-24* 
AlkPhos-76 TotBili-0.3
___ 07:31AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 05:20AM BLOOD Calcium-8.9 Phos-3.9 Mg-1.9
___ 07:31AM BLOOD VitB12-229* Folate-5
___ 07:31AM BLOOD %HbA1c-5.3 eAG-105
___ 07:31AM BLOOD TSH-5.7*
___ 12:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
========
CXR ___:
FINDINGS:  
  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal.  Slight haziness of the left 
lung base on the frontal view does not have a correlate on the 
lateral view and likely  due to overlying known breast implant.  
No focal consolidation is otherwise seen.  No pleural effusion 
or pneumothorax is seen. There are no acute osseous 
abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality.  Slight haziness of the 
left lung base on the frontal view likely due to overlying known 
breast implant. 
  
CTA head/neck ___:
1. Multifocal atherosclerotic disease of the circle of ___ 
with no evidence of occlusion or aneurysm formation. 
2. Mild atherosclerotic calcifications of the common carotid 
artery 
bifurcations without evidence of internal carotid artery 
stenosis by NASCET criteria. 
3. Atherosclerotic narrowing of the distal right vertebral 
artery. 
  
MRI head without contrast ___:
1. Small subacute infarction in the left posterior insular 
cortex and tiny 
infarction in the left temporal lobe. 
2. No evidence of acute hemorrhage. 
3. Mild-to-moderate parenchymal volume loss. 

TTE ___:
The left atrial volume index is normal. There is no evidence for 
a right-to-left shunt with agitated saline at rest and with 
maneuvers. The estimated right atrial pressure is ___ mmHg. 
There is normal left ventricular wall thickness with a normal 
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative 3D volumetric left 
ventricular ejection fraction is 65 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. Tissue Doppler suggests an 
increased left ventricular filling pressure (PCWP greater than 
18mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. There is no evidence for an aortic arch 
coarctation. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is moderate mitral 
annular calcification. There is mild [1+] mitral regurgitation. 
Due to acoustic shadowing, the
severity of mitral regurgitation could be UNDERestimated. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is high
normal. There is no pericardial effusion.

IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and regional/global systolic 
function. Mild mitral regurgitation with normal valve 
morphology.

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is an otherwise healthy ___ year old woman who presented to 
the ED after 2 episodes of inability to produce speech. Though 
she describes two distinct episodes, it is not clear that she 
ever returned to normal in between them. Alternatively, it is 
possible that she had a single continuous episode lasting 
several hours.

Neurologic exam is currently only notable for very slight right 
facial asymmetry, and increased tone in the legs with loss of 
large fiber sensation. 

MRI shows a small subacute infarction in the left posterior 
insular cortex and tiny infarction in the left temporal lobe. 
Etiology thought to be cardioembolic vs. artery-to-artery given 
moderate atherosclerotic calcifications at the carotid bulbs and 
carotid siphons bilaterally. 

She was started on aspirin 81 mg daily and atorvastatin 40 mg 
daily while in house. She had an unremarkable TTE.

Patient found to have B12 deficiency in house. She was started 
on vitamin B12 100 mcg daily. 

TRANSITIONAL ISSUES:
====================
- Patient ordered for ___ monitor at ___. Please 
make sure patient picks up monitor within next 7 days to monitor 
for occult atrial fibrillation.

- Please continue to monitor vitamin B12 deficiency. Patient 
started on vitamin B12 100 mcg daily while in house. 

- Home ___ per ___ recommendations. They recommend frequent 
mobility and maximize independence in ADLs. Ambulate with SC and 
S 3x/day. Normalize sleep-wake cycle to decrease risk of 
delirium.

=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 92) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? -> Patient at baseline 
functional status.
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*3 
3.  Cyanocobalamin 100 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 100 mcg 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*3 
4.Outpatient Physical Therapy
Home ___. 
ICD: I63.9.
5.Cane
Straight cane. ICD I63.9.
Prognosis: Good.
Length of need: 13 months.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

 ___ were hospitalized due to symptoms of trouble speaking 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- High cholesterol 
  
 We are changing your medications as follows:  

- Started aspirin 81 mg daily
- Started atorvastatin 40 mg daily
- Started vitamin B12 100 mcg daily 
  
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  

 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___